US08614239B2
Preparation of Intermediate 8-(1-Allyl-cyclopropanesulfonyl)-4,5-difluoro-6-(2-fluoro-4-iodo-phenyl)-6,8-dihydro-imidazo[4′,5′:3,4]benzo[1,2-d]oxazol-7-one (I-21a)
Intermediate I-21a was prepared from 4,5-difluoro-6-(2-fluoro-4-iodo-phenyl)-6,8-dihydro-imidazo[4′,5′:3,4]benzo[1,2-d]oxazol-7-one (I-15a: 250 mg, 0.561 mmol), 1-allyl-cyclopropanesulfonyl chloride (202 mg, 1.12 mmol), TEA (228 mL, 1.68 mmol) and DMAP (25 mg) using procedures analogous to those described above for Intermediate I-19a to afford 180 mg of the product (55.3% yield).

reactant | 4,5-difluoro-6-(2-fluoro-4-iodo-phenyl)-6,8-dihydro-imidazo[4′,5′:3,4]benzo[1,2-d]oxazol-7-one | 0.561 mmol, 250 mg | FC1=C(C2=C(C3=C1N=CO3)NC(N2C2=C(C=C(C=C2)I)F)=O)F | C14H5F3IN3O2
reactant | 1-allyl-cyclopropanesulfonyl chloride | 1.12 mmol, 202 mg | C(C=C)C1(CC1)S(=O)(=O)Cl | C6H9ClO2S
catalyst | DMAP | 25 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 8-(1-Allyl-cyclopropanesulfonyl)-4,5-difluoro-6-(2-fluoro-4-iodo-phenyl)-6,8-dihydro-imidazo[4′,5′:3,4]benzo[1,2-d]oxazol-7-one | 180 mg, 55.3% yield | C(C=C)C1(CC1)S(=O)(=O)N1C(N(C2=C1C1=C(N=CO1)C(=C2F)F)C2=C(C=C(C=C2)I)F)=O | C20H13F3IN3O4S
